US07226644B2
The DMF (100 ml) suspension containing 2-(trans-4-ethylcyclohexyl)-7,8-difluoro-6-hydroxychroman (28 g), iodoethane (25 g), and anhydrous potassium carbonate (15 g) was heated to reflux for 2 hours. The reaction solution was poured into 5% hydrochloric acid, extracted with toluene, and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain 6-ethoxy-2-(trans-4-ethylcyclohexyl)-7,8-difluorochroman (30 g). Moreover, this was recrystallized using acetone to obtain 26 g of a pure substance.

reactant | 2-(trans-4-ethylcyclohexyl)-7,8-difluoro-6-hydroxychroman | 28 g | C(C)[C@@H]1CC[C@H](CC1)C1OC2=C(C(=C(C=C2CC1)O)F)F | C17H22F2O2
reactant | iodoethane | 25 g | ICC | C2H5I
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-ethoxy-2-(trans-4-ethylcyclohexyl)-7,8-difluorochroman | 30 g | C(C)OC=1C=C2CCC(OC2=C(C1F)F)[C@@H]1CC[C@H](CC1)CC | C19H26F2O2
